US07820664B2
Step F: Methyl 5-acetyl-2-(2-fluoro-4-iodophenylamino)-3,4-difluorobenzoate:
To a solution of methyl 5-acetyl-2-(2-fluorophenylamino)-3,4-difluorobenzoate (0.47 mmol, 0.16 g) in DMF (10 ml) was added NIS (0.56 mmol, 0.13 g) and TFA (0.10 ml), and the reaction was stirred at room temp overnight. The crude was diluted with EtOAc and washed with H2O. The organic fraction was dried over MgSO4 and concentrated under reduced pressure to yield the desired product in 90% (0.23 g).

reactant | methyl 5-acetyl-2-(2-fluorophenylamino)-3,4-difluorobenzoate | 0.47 mmol, 0.16 g | C(C)(=O)C=1C(=C(C(=C(C(=O)OC)C1)NC1=C(C=CC=C1)F)F)F | C16H12F3NO3
reactant | NIS | 0.56 mmol, 0.13 g | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | TFA | 0.10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 5-acetyl-2-(2-fluoro-4-iodophenylamino)-3,4-difluorobenzoate | C(C)(=O)C=1C(=C(C(=C(C(=O)OC)C1)NC1=C(C=C(C=C1)I)F)F)F | C16H11F3INO3
